US09376441B2
Step-3 tert-butyl 4-(5-(3-methyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)pyridin-2-yl)piperazine-1-carboxylate
(R)-4-((R)-1-((6-chloro-3-methyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one (150 mg, 0.51 mmol), tert-butyl 4-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine-1-carboxylate (277.37 mg, 0.71 mmol), potassium phosphate tribasic (324 mg, 0.1.53 mmol), Bis[di-tert-butyl(4 dimethylaminophenyl)phosphine]dichloropalladium(II) (11.92 mg, 0.017 mmol) were combined in water (0.72 ml) and 1,4-Dioxane (9 ml). The reaction was stirred at 100 C for 90 mins. The reaction was diluted with dichloromethane, washed with water, dried, filtered and concentrated. Residues were purified by silica gel column chromatography to yield the title compound as a free base.

reactant | (R)-4-((R)-1-((6-chloro-3-methyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 0.51 mmol, 150 mg | ClC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C | C13H15ClN4O2
reactant | tert-butyl 4-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine-1-carboxylate | 0.71 mmol, 277.37 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C20H32BN3O4
reactant | potassium phosphate tribasic | 324 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | water | 0.72 ml | O | H2O
solvent | 1,4-Dioxane | 9 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 4-(5-(3-methyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)pyridin-2-yl)piperazine-1-carboxylate | CN1C=NC2=C1C(=NC(=C2)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)O[C@H](C)[C@H]2CNC(C2)=O | C27H35N7O4
